US07332499B2
To a solution of (1R)-1-(4-bromo-2-fluorophenyl)ethanaminium chloride (14.24 g, 55.95 mmol) in CH2Cl2 (300 mL) at 0° C. was added di(tert-butyl) dicarbonate (17.98 g, 82.40 mmol) and triethylamine (8.256 g, 81.58 mmol). The solution was washed with water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to provide tert-butyl(1R)-1-(4-bromo-2-fluorophenyl)ethylcarbamate as a white solid that gave proton NMR spectra consistent with theory.

reactant | (1R)-1-(4-bromo-2-fluorophenyl)ethanaminium chloride | 55.95 mmol, 14.24 g | [Cl-].BrC1=CC(=C(C=C1)[C@@H](C)[NH3+])F
reactant | di(tert-butyl) dicarbonate | 82.40 mmol, 17.98 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 81.58 mmol, 8.256 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl(1R)-1-(4-bromo-2-fluorophenyl)ethylcarbamate | BrC1=CC(=C(C=C1)[C@@H](C)NC(OC(C)(C)C)=O)F | C13H17BrFNO2
